US08431713B2
Step E: Preparation of 1-Benzoyl-3-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea:
5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-amine (2.0 g, 7.14 mmol) and benzoyl isothiocyanate (1.0 ml, 7.5 mmol) were diluted in tetrahydrofuran (100 mL) and stirred at ambient temperature overnight. The solution was concentrated and charged with a mixture of ethyl acetate (10 mL) and hexanes (200 mL). The mixture was stirred for 10 minutes and filtered to give the title compound (2.8 g, 89% yield) as yellow solid.

reactant | 5-Bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-amine | 7.14 mmol, 2.0 g | BrC=1C(=CC(=NC1)N)OC=1C(=NC=CC1)C | C11H10BrN3O
reactant | benzoyl isothiocyanate | 7.5 mmol, 1.0 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-Benzoyl-3-(5-bromo-4-(2-methylpyridin-3-yloxy)pyridin-2-yl)thiourea | 2.8 g, 89% yield | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C(=C1)OC=1C(=NC=CC1)C)Br | C19H15BrN4O2S
